US07582633B2
Step 6: 2-[3-(2-Bromo-5-fluorophenoxy)azetidin-1-yl]-5-(1H-tetrazol-5-yl)pyrazine
A mixture of 5-[3-(2-bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carbonitrile (0.48 g, 1.36 mmol), sodium azide (0.18 g, 2.7 mmol), and ammonium chloride (0.73 g, 1.36 mmol) in DMF (4 mL) was heated at 130° C. After a period of 4 h, the reaction mixture was partitioned between ethyl acetate and saturated ammonium chloride. The resulting solid was filtered and washed with water and ether. The solid was taken up in toluene and the solvent evaporated to provide the desired product.

reactant | 5-[3-(2-bromo-5-fluorophenoxy)azetidin-1-yl]pyrazine-2-carbonitrile | 1.36 mmol, 0.48 g | BrC1=C(OC2CN(C2)C=2N=CC(=NC2)C#N)C=C(C=C1)F | C14H10BrFN4O
reactant | sodium azide | 2.7 mmol, 0.18 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.36 mmol, 0.73 g | [Cl-].[NH4+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[3-(2-Bromo-5-fluorophenoxy)azetidin-1-yl]-5-(1H-tetrazol-5-yl)pyrazine | BrC1=C(OC2CN(C2)C2=NC=C(N=C2)C2=NN=NN2)C=C(C=C1)F | C14H11BrFN7O
